US04997840
A mixture of 7-fluoro-1-methyl-4-oxo-1,4-dihydro-quinol-3-yl benzoate (1 0 g), piperidine (3.7 ml) and dichloromethane (200 ml) was stirred at ambient temperature for 2 days under nitrogen. The solvent was removed by distillation at 50°. The resultant solid was triturated with diethyl ether 100 ml), collected and washed with diethyl ether (2×100 ml) to give the novel compound 7-fluoro-3-hydroxy-1 -methyl-4-quinolone, m.p. 283°-285°.

reactant | 7-fluoro-1-methyl-4-oxo-1,4-dihydro-quinol-3-yl benzoate | 0 g | C(C1=CC=CC=C1)(=O)OC1=CN(C2=CC(=CC=C2C1=O)F)C | C17H12FNO3
reactant | piperidine | 3.7 ml | N1CCCCC1 | C5H11N
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | 7-fluoro-3-hydroxy-1 -methyl-4-quinolone | FC1=CC=C2C(C(=CN(C2=C1)C)O)=O | C10H8FNO2
